US05843999
4-(1 -Phenylazulene-2-yl)phenylsulfonamide (Compound 27)
Methyl 2- (4-t-butylaminosulfonylphenyl) -3-phenylazulene-1-carboxylate: To a solution of methyl 3-bromo-2-(4-t-butylaminosulfonylphenyl) azulene-1-carboxlate (0.56 g) in toluene (10.0 ml) was added phenylboronic acid (0.34 g), tetrakis(triphenylphosphine)palladium (0) (0.07 g) and 2M aqueous Na2CO3 (2.3 ml), and the reaction mixture was heated under reflux for 2 hr. The reaction mixture was poured into ice-water, followed by extracted with EtOAc. The combined EtOAc extracts were washed with water and brine, dried over Na2SO4, and concentrated. The crude product was purified by SiO2 column chromatography (benzenee/EtOAc, 20:1) to give the title compound (0.47 g) as violet crystals; mp 76°-77° C.

reactant | Methyl 2- (4-t-butylaminosulfonylphenyl) -3-phenylazulene-1-carboxylate | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1C1=CC=CC=C1)C(=O)OC | C28H27NO4S
reactant | phenylboronic acid | 0.34 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 2.3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1 -Phenylazulene-2-yl)phenylsulfonamide | 0.47 g | C1(=CC=CC=C1)C1=C(C=C2C=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)N | C22H17NO2S
